US08609653B2
Steps I-J: To a solution of 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (9.40 g, 19.84 mmol) in dichloromethane (DCM) (250 mL) at 0° C. was added TMSCN (10.64 mL, 79 mmol) followed by zinc iodide (12.67 g, 39.7 mmol) and the mixture was stirred at 0° C. for 5 min and then at ambient temperature for 1 h. The mixture was diluted with dichloromethane and washed with cold water, dried (Na2SO4), concentrated and dried in vacuo The residue was cooled to 0° C. and methanol (250 mL) was added followed by dropwise addition of sulfuric acid (50.8 mL, 952 mmol) and the mixture was stirred at 75° C. for 24 h. The mixture was diluted with EtOAc and washed with water. The aq. phase was extracted with EtOAc (2×) and the combined organic layers were washed with saturated NaHCO3/water, dried (Na2SO4), concentrated to provide methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate (7.95 g, 14.65 mmol, 73.8% yield) as a yellow foam. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.62 (s, 3 H), 3.34-3.57 (m, 1 H), 3.78 (s, 3 H), 5.38-5.57 (m, 2 H), 5.88 (s, 1 H), 6.34 (d, J=3.52 Hz, 1 H), 6.81-6.90 (m, 1 H), 6.90-7.00 (m, 1 H), 7.01-7.13 (m, 1 H), 7.20 (d, J=3.52 Hz, 1 H); LCMS (m/z) ES+=473 (M+1).

reactant | 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 19.84 mmol, 9.40 g | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C=O)C)C=CC=C1F | C16H11F2IN2O
reactant | TMSCN | 79 mmol, 10.64 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | sulfuric acid | 952 mmol, 50.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
catalyst | zinc iodide | 39.7 mmol, 12.67 g | [I-].[Zn+2].[I-]
product | methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate | 14.65 mmol, 7.95 g, 73.8% yield | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C(C(=O)OC)O)C)C=CC=C1F | C18H15F2IN2O3
